US05157145
0.3 g of (2R,5S)-2-benzyl-2,5-dihydro-3-ethoxy-5-isopropyl-6-methoxy-2-methylpyrazine was dissolved in 15 ml of absolute dichloromethane and cooled under argon to -10° C. Then 25 mg of iodine and 0.16 ml of trimethylsilyl iodide were added. After 3 h, the solution was allowed to warm to room temperature and was stirred at 22° C. for 14 h. 5 ml of ethanol and 5 ml of diethylamine were added and the mixture was then evaporated under reduced pressure and the residue was chromatographed on silica gel (ether, Rf=0.44). 0.29 g (91%) of (2R,5S)-2-benzyl-3-ethoxy-5-isopropyl-1,2,5,6-tetrahydro-2-methyl-6-pyrazinone, melting point 125° C., was obtained.

reactant | (2R,5S)-2-benzyl-2,5-dihydro-3-ethoxy-5-isopropyl-6-methoxy-2-methylpyrazine | 0.3 g | C(C1=CC=CC=C1)[C@]1(N=C([C@@H](N=C1OCC)C(C)C)OC)C | C18H26N2O2
reactant | iodine | 25 mg | II | I2
reactant | trimethylsilyl iodide | 0.16 ml | C[Si](C)(C)I | C3H9ISi
reactant | diethylamine | 5 ml | C(C)NCC | C4H11N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (2R,5S)-2-benzyl-3-ethoxy-5-isopropyl-1,2,5,6-tetrahydro-2-methyl-6-pyrazinone | 0.29 g, 91% | C(C1=CC=CC=C1)[C@]1(NC([C@@H](N=C1OCC)C(C)C)=O)C | C17H24N2O2
